US07842685B2
2-(3-Fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)-ethanamine (112 mg, 0.29 mmol) was dissolved in toluene (2.9 mL) before diethyl oxalate (0.39 mL, 2.88 mmol) was added and stirred at 110° C. for 16 h. The reaction mixture was diluted with 75 mL of DCM, added to a separatory funnel, partitioned with sodium bicarbonate (saturated, aqueous), washed with sodium bicarbonate (saturated, aqueous), separated, dried over sodium sulfate, and concentrated via rotovap to give ethyl 2-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)ethylamino)-2-oxoacetate after flash chromatography. MS (ESI) m/z: Calculated: 489.2; Observed: 490.4 (M++H).

reactant | 2-(3-Fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)-ethanamine | 0.29 mmol, 112 mg | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CCN | C23H20FN3S
reactant | diethyl oxalate | 2.88 mmol, 0.39 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | toluene | 2.9 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-(2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)ethylamino)-2-oxoacetate | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CCNC(C(=O)OCC)=O | C27H24FN3O3S
